US04017522
N,N-bis(2-trimethylacetoxyethyl)lauramide
N,N-bis(2-trimethylacetoxyethyl)lauramide was prepared by the procedure of example 1 from 29 gms. (0.1 mole) of N,N-bis(2-hydroxyethyl)lauramide and 24 gms. (0.2 mole) of trimethylacetyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N,N-bis(2-hydroxyethyl)lauramide | 0.1 mole | OCCN(C(CCCCCCCCCCC)=O)CCO | C16H33NO3
reactant | trimethylacetyl chloride | 0.2 mole | CC(C(=O)Cl)(C)C | C5H9ClO
product | N,N-bis(2-trimethylacetoxyethyl)lauramide | CC(C(=O)OCCN(C(CCCCCCCCCCC)=O)CCOC(C(C)(C)C)=O)(C)C | C26H49NO5
